US04011277
In a 5-l. three-necked, and round-bottomed flask were placed 114.7 g of 3,7,11-trimethyldodeca-6,10-dien-l-yne-3-ol, 305.9 g of ammonium chloride, 765 ml of water and 76.5 ml of ethyl alcohol and the mixture was stirred at a room temperature by passing oxygen for 18 hours. After completion of the reaction, no starting material remained. The reaction mixture was centrifuged and was extracted with benzene. The organic layer was distilled off to remove benzene and ethyl alcohol. The residue was dissolved in benzene and washed with water. The benzene solution was dried over anhydrous calcium sulfate and the solid material was filtered off. The benzene solution thus obtained was distilled off to give 107.8 g of 2,6,10,15,19,23-hexamethyltetracosa-2,6,18,22-tetraene-11,13-diyne-10,15-diol as viscous liquid. A 3 g of this substance was further dissolved in 10 ml of benzene, treated with active carbon and purified by distilling the benzene.

reactant | 3,7,11-trimethyldodeca-6,10-dien-l-yne-3-ol | 114.7 g | CC(C#C)(CCC=C(CCC=C(C)C)C)O | C15H24O
reactant | ammonium chloride | 305.9 g | [Cl-].[NH4+]
reactant | water | 765 ml | O | H2O
reactant | oxygen | O=O | O2
solvent | ethyl alcohol | 76.5 ml | C(C)O | C2H6O
product | 2,6,10,15,19,23-hexamethyltetracosa-2,6,18,22-tetraene-11,13-diyne-10,15-diol | 107.8 g | CC(C)=CCCC(=CCCC(C#CC#CC(CCC=C(CCC=C(C)C)C)(O)C)(O)C)C | C30H46O2
